Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
presumed ectopic pregnancy
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ G1 with LMP ___ with presumed ectopic (never seen on 
ultrasound) presents to ED with severe abdominal pain after 
treatment with MTX on ___.  

She was having some mild abdominal pain responsive to Tylenol 
but this morning her pain became ___ and unresponsive to 
Tylenol. She describes the pain as located across her low 
abdomen, left > right.  It was "unbearable" and she had trouble 
walking although wasn't lightheaded, just overwhelmed with pain. 
 In the ambulance ride, she received 50mcg fentanyl and 4mg 
zofran IV.  Her pain is
now ___.  She also notes vaginal bleeding, ~3 pads per day.  No 
clots.

___

TVUS (prelim): Focal thickening of the endometrium, portion with
vascular flow -> consistent with ongoing SAB.  Cystic structure
in left ovary most likely corpus luteum.
 
Past Medical History:
PGynHx: Notes severe dysmenorrhea, normally takes Aleve. 
Previously on OCPs.
PMHx: denies
PSHx: denies

 
Social History:
___
Family History:
NC
 
Physical Exam:
VS on arrival: 97.4 58 106/55 100%  RA
General: NAD
Cardiac: RRR
Pulm: CTA
Abdomen: Soft, no focal tenderness with NO rebound or guarding. 
+BS
Bimanual: Mildly enlarged AV uterus without tenderness or CMT. 
Some left adnexal fullness without discrete tenderness (pt notes
diffuse "tenderness")
Ext: NT, NE

Labs:
HCG 1845
CBC 7.8>41.7<221
Blood type O+

 
Pertinent Results:
___ 11:57AM BLOOD WBC-7.8# RBC-4.77 Hgb-13.3 Hct-41.7 
MCV-88 MCH-27.9 MCHC-31.9 RDW-14.0 Plt ___
___ 11:57AM BLOOD ___ PTT-28.0 ___
___ 11:57AM BLOOD Glucose-87 UreaN-11 Creat-0.8 Na-136 
K-4.4 Cl-105 HCO3-25 AnGap-10
___ 11:57AM BLOOD Mg-2.0
___ 11:57AM BLOOD HCG-1845
 
Brief Hospital Course:
Ms. ___ is a ___ year old G1 with LMP at end of ___ and a 
presumed ectopic who presents with severe abdominal pain after 
methotrexate administration.  On arrival in the ED, she was 
hemodynamically stable with a hematocrit of 41 and benign 
abdominal exam.  Ultrasound showed a small amount of material in 
the lower uterine segment, no adenxal masses or free fluid.  She 
was admitted for observation in the absence of any signs of 
ruptured ectopic.  She did well overnight, only requiring 
tylenol for analgesia.  She remained hemodynamically stable 
without change in abdominal exam.  She was discharged to home on 
HD 2 in good condition.
 
Medications on Admission:
none
 
Discharge Medications:
1. Percocet 7.5-325 mg Tablet Sig: ___ Tablets PO every ___ 
hours.
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRESUMED ECTOPIC PREGNANCY

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___, 
You were admitted with abdominal pain in the setting of 
suspected ectopic pregnancy.  This was thought to be due to 
either ongoing miscarriage or aborting tubal ectopic.  There was 
no evidence of a ruptured ectopic pregnancy.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  


Call your doctor for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge   
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  

 
Followup Instructions:
___